US07700786B2
Reaction of 3-(5-ethoxy-2-nitrophenyloxy)-5-methylpyrazole with ethyl isocyanate was carried out in ethyl acetate in the presence of potassium carbonate in the same manner as in Example 99, to give a yellow solid of N-ethyl-3-(5-ethoxy-2-nitrophenyloxy)-5-methylpyrazole-1-carboxamide (yield: 75.9%). mp: 73-75° C.; 1H-NMR (CDCl3, TMS, ppm): δ 1.20 (t, J=7.2 Hz, 3H), 1.44 (t, J=7.0 Hz, 3H), 2.59 (d, J=0.7 Hz, 3H), 3.35 (dq, J=5.9 and 7.2 Hz, 2H), 4.09 (q, J=7.0 Hz, 2H), 5.78 (q, J=0.7 Hz, 1H), 6.73 (d, J=2.4 Hz, 1H), 6.77 (dd, J=2.4 and 8.9 Hz, 1H), 6.81 (br s, 1H), 8.06 (d, J=8.9 Hz, 1H).

reactant | 3-(5-ethoxy-2-nitrophenyloxy)-5-methylpyrazole | C(C)OC=1C=CC(=C(C1)OC1=NNC(=C1)C)[N+](=O)[O-] | C12H13N3O4
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-ethyl-3-(5-ethoxy-2-nitrophenyloxy)-5-methylpyrazole-1-carboxamide | yield: 75.9% | C(C)NC(=O)N1N=C(C=C1C)OC1=C(C=CC(=C1)OCC)[N+](=O)[O-] | C15H18N4O5
